US04623734
The same reactor as used in Example 7 was adopted. This reactor was charged with a solution 53 g of maleic anhydride in 200 g of chlorobenzene. Then, methylamine gas was blown in gradually and piecemeal at 30° C. at a rate of 4.3×10-3 mol/min. over a period of two hours to produce a white slurry of N-methyl maleinamic acid. Subsequently, the slurry and 22.5 g of ortho-phosphoric acid (purity 89% by weight), 0.1 g of phenothiazine, and 0.02 g of zinc acetate added thereto were heated at 134° C. for two hours to effect reaction. Thereafter, the resultant reaction mixture was cooled to 40° C., filtered, and distilled under a vacuum to expel chlorobenzene. Consequently, there was obtained 45 g of light yellow N-methyl maleimide having purity of 92.1% by weight. The yield of the product is calculated to be 72.5 mol% based on methylamine as the raw material.

reactant | maleic anhydride | 53 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | methylamine | CN | CH5N
solvent | chlorobenzene | 200 g | ClC1=CC=CC=C1 | C6H5Cl
product | N-methyl maleinamic acid | CNC(\C=C/C(=O)O)=O | C5H7NO3
